US04233231
Preparation of (E)-1-tri-n-butylstannyl-3-triethylsilyloxy-1-octene
A solution of 20 g of 3-triethylsilyloxy-1-octyne, 150 mg of azobisisobutyronitrile, and 30 ml of tri-n-butyltin hydride is magnetically stirred under an argon atmosphere at 140° C. for 2 hours, (EXOTHERMIC), then cooled to ambient temperature. The excess tin hydride is removed by distillation (~70°/1.0 mm). The residue is purified by distillation to provide 36.5 g of the oil (bp 165° C. at 0.05 mm).

reactant | 3-triethylsilyloxy-1-octyne | 20 g | C(C)[Si](OC(C#C)CCCCC)(CC)CC | C14H28OSi
reactant | azobisisobutyronitrile | 150 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | tri-n-butyltin hydride | 30 ml | C(CCC)[SnH](CCCC)CCCC
product | (E)-1-tri-n-butylstannyl-3-triethylsilyloxy-1-octene | 36.5 g | C(CCC)[Sn](\C=C\C(CCCCC)O[Si](CC)(CC)CC)(CCCC)CCCC | InChI=1S/C14H29OSi.3C4H9.Sn/c1-6-11-12-13-14(7-2)15-16(8-3,9-4)10-5;3*1-3-4-2;/h2,7,14H,6,8-13H2,1,3-5H3;3*1,3-4H2,2H3;
